US09353075B2
Step 2. Preparation of (2S,3S)-3-hydroxy-2-(5-phenylpentoxycarbonylamino)-butanoic acid
To a stirred mixture of L-allo-threonine (0.150 g, 1.25 mmol) and NaHCO3 (0.158 g, 1.89 mmol) in H2O (3.5 mL), the crude mixture containing 1-(4-phenylphenyl)ethyl-2-pyridyl-carbonate and 5-phenyl-pentyl-2-oxopyridine 1-carboxylate (0.538 g, 1.89 mmol) in THF (3.5 mL) was added. After 15 h at rt, the crude mixture was rotary evaporated to remove the organics and subsequently extracted with Et2O (3×5 mL). The aqueous phase was acidified with 2M HCl solution to pH 2-3 and subsequently extracted with AcOEt (3×10 mL). The organic fraction was dried over Na2SO4, filtered and concentrated to dryness to afford the title compound (0.35 g, 89%) as transparent oil, which was used in the next step without further purification. MS (ESI) m/z: 310 [M−H]+; (ESI) m/z: 308 [M−H]−. 1H NMR (DMSO-d6): δ 1.08 (d, J=6.1 Hz, 3H), 1.28-1.39 (m, 2H), 1.50-1.64 (m, 4H), 2.57 (t, J=7.7 Hz, 2H), 3.83-3.98 (m, 4H), 7.12 (d, J=8.7 Hz, 1H), 7.14-7.21 (m, 3H), 7.23-7.30 (m, 2H) 12.32 (br s, 1H).

reactant | L-allo-threonine | 1.25 mmol, 0.150 g | N[C@@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 1.89 mmol, 0.158 g | C(=O)(O)[O-].[Na+]
reactant | 5-phenyl-pentyl-2-oxopyridine 1-carboxylate | 1.89 mmol, 0.538 g | C1(=CC=CC=C1)CCCCCC=1C(N(C=CC1)C(=O)[O-])=O
solvent | H2O | 3.5 mL | O | H2O
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | (2S,3S)-3-hydroxy-2-(5-phenylpentoxycarbonylamino)-butanoic acid | 0.35 g, 89% | O[C@H]([C@@H](C(=O)O)NC(=O)OCCCCCC1=CC=CC=C1)C | C16H23NO5
